US07935716B2
At room temperature, 2.11 g of 5-chloro-4-methyl-2H-1,3-oxazine-2,6(3H)-dione, 2.07 g of potassium carbonate and 1.3 ml of methyl iodide were sequentially added to 40 ml of acetone, then the mixture was stirred for 3 hours under heat refluxing condition. To the reaction mixture was added 0.5 ml of methyl iodide, and the mixture was further stirred for 2 hours under heat refluxing condition. The reaction mixture was cooled to room temperature and filtered. The filtrate was concentrated under reduced pressure. The resulting solid was dried to obtain 1.74 g of 5-chloro-3,4-dimethyl-2H-1,3-oxazine-2,6(3H)-dione represented by the formula:

reactant | 5-chloro-4-methyl-2H-1,3-oxazine-2,6(3H)-dione | 2.11 g | ClC1=C(NC(OC1=O)=O)C | C5H4ClNO3
reactant | potassium carbonate | 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.3 ml | CI | CH3I
reactant | methyl iodide | 0.5 ml | CI | CH3I
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 5-chloro-3,4-dimethyl-2H-1,3-oxazine-2,6(3H)-dione | 1.74 g | ClC1=C(N(C(OC1=O)=O)C)C | C6H6ClNO3
